US05126336
Diphenylmethyl 3-[(E)- 3-iodo-1-propen-1-yl]-7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (Xb)
A mixture of diphenylmethyl 3-[(Z)-3-chloro-1-propen-1-yl]-7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyimino-acetamido]-3-cephem-4-carboxylate (IXb) (392 mg, 0.45 mmol) and sodium iodide (204 mg, 1.36 mmol) in acetone (3.9 ml) was stirred at room temperature for 2 hours and diluted with ethyl acetate. The organic solution was successively washed with an aqueous sodium thiosulfate solution, water and brine, dried over anhydrous magnesium sulfate and concentrated to afford 394 mg (91% yield) of the title product.

reactant | diphenylmethyl 3-[(Z)-3-chloro-1-propen-1-yl]-7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyimino-acetamido]-3-cephem-4-carboxylate | 0.45 mmol, 392 mg | ClC\C=C/C=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(\C(=N/OC)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C48H40ClN5O5S2
reactant | sodium iodide | 1.36 mmol, 204 mg | [I-].[Na+]
solvent | acetone | 3.9 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diphenylmethyl 3-[(E)- 3-iodo-1-propen-1-yl]-7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 394 mg, 91% yield | IC/C=C/C=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(\C(=N/OC)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C48H40IN5O5S2
